US07700628B2
Using methods substantially equivalent to those described in Example 4-F, except that the reaction was heated to 80° C., 2-[2-(3-tert-butoxycarbonylamino-2,2-dimethyl-propoxy)-4-(pyrrolidin-1-yl)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide (453 mg, 0.73 mmol, 43%) was prepared from 2-[2-(3-tert-butoxycarbonylamino-2,2-dimethyl-propoxy)-4-fluorobenzoylamino]-N-(5-chloropyridin-2-yl)benzamide and pyrrolidine.

reactant | 2-[2-(3-tert-butoxycarbonylamino-2,2-dimethyl-propoxy)-4-fluorobenzoylamino]-N-(5-chloropyridin-2-yl)benzamide | C(C)(C)(C)OC(=O)NCC(COC1=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=CC(=C1)F)(C)C | C29H32ClFN4O5
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 2-[2-(3-tert-butoxycarbonylamino-2,2-dimethyl-propoxy)-4-(pyrrolidin-1-yl)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | 0.73 mmol, 453 mg, 43% | C(C)(C)(C)OC(=O)NCC(COC1=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=CC(=C1)N1CCCC1)(C)C | C33H40ClN5O5
